US07056917B2
(A) 4-Cyclobutyl-1,3-thiazol-2-amine
Thiourea (2.3 g, 30.0 mmol) was dissolved in ethanol (100 ml), added with 2-bromo-1-cyclobutyl-1-ethanone synthesized in the same manner as in Example 1, (E), and then heated to 100° C. The reaction solution was stirred for 1 hour, then returned to room temperature, neutralized with saturated sodium hydrogencarbonate and extracted with chloroform. The collected organic layer was washed with saturated brine, dried over magnesium sulfate and then concentrated under reduced pressure. The title compound was obtained as the residue without purification as a brown oily substance (5.4 g, 100%).

reactant | Thiourea | 30.0 mmol, 2.3 g | NC(=S)N | CH4N2S
reactant | 2-bromo-1-cyclobutyl-1-ethanone | BrCC(=O)C1CCC1 | C6H9BrO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-Cyclobutyl-1,3-thiazol-2-amine | C1(CCC1)C=1N=C(SC1)N | C7H10N2S
